US06204293B1
1-t-butoxycarbonyl-4-hydroxy-4-phenylpiperidine
To a solution of 4-hydroxy-4-phenylpiperidine (1.77 g, 10.0 mmol) and triethylamine (2 mL) in DCM (40 mL) was addede di-tert-butyl dicarbonate (2.29 g, 10.5 mmol). After 15 hopurs at room temperature, the reaction mixture was then partitioned between ether (80 mL) and water (20 mL). The organic layer was washed with water (2×20 mL), brine (20 mL), dried over anhydrous magnesium sulfate, filtered and concentrated. The residue was purified by column chromatography with 90:10:5 of hexane:ethyl acetate:chloroform to give the title compound (1.01 g, 36%). 1HNMR (300 MHz, CDCl3) δ7.48 (dq, 2 H), 7.37 (tt, 1 H), 7.30 (dt, 1 H), 4.02 (br loop, 2 H),3.15 (br t, 2 H), 2.01 (br dt, 2 H), 1.74 (dq, 2 H), 1.48 (s, 9 H).

reactant | 4-hydroxy-4-phenylpiperidine | 10.0 mmol, 1.77 g | OC1(CCNCC1)C1=CC=CC=C1 | C11H15NO
reactant | triethylamine | 2 mL | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 10.5 mmol, 2.29 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | DCM | 40 mL | C(Cl)Cl | CH2Cl2
product | 1-t-butoxycarbonyl-4-hydroxy-4-phenylpiperidine | 1.01 g, 36% | C(C)(C)(C)OC(=O)N1CCC(CC1)(C1=CC=CC=C1)O | C16H23NO3
